US06008229
To a solution of 2-(2,4-dichlorophenyl)-1,3-dioxolane (31.9 g) in tetrahydrofuran (220 ml) was added dropwise 1.6M n-butyllithium in hexane (110 ml) at -60 to -50° C. in a dry ice-acetone bath, and the mixture was stirred at -50° C. After 1 hour, to the reaction mixture was added N,N-dimethylformamide (56.4 ml). After 15 minutes, the mixture was stirred at ambient temperature for 1 hour then water (200 ml) was added thereto. The mixture was extracted with ethyl acetate (100 ml) twice, the organic layer was washed with water 3 times, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash silica gel chromatography eluted with n-hexane-ethyl acetate (10:1, V/V) and crystallized with diisopropyl ether to give 2,6-dichloro-3-(1,3-dioxolan-2-yl)benzaldehyde (4.91 g) as colorless crystals.

reactant | 2-(2,4-dichlorophenyl)-1,3-dioxolane | 31.9 g | ClC1=C(C=CC(=C1)Cl)C1OCCO1 | C9H8Cl2O2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 56.4 ml | CN(C=O)C | C3H7NO
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
solvent | hexane | 110 ml | CCCCCC | C6H14
product | 2,6-dichloro-3-(1,3-dioxolan-2-yl)benzaldehyde | 4.91 g | ClC1=C(C=O)C(=CC=C1C1OCCO1)Cl | C10H8Cl2O3
